US07691902B2
Methyl 4-(1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-2-bromobenzoate (4.12 g, 9.9 mmol) was added to a solution of LiBH4 (429 mg, 19.8 mmol) in THF/ether/H2O (20/20/1 mL) and was allowed to stir at 25° C. After 16 hours, the reaction was quenched with H2O (10 mL). The reaction mixture was diluted with dichloromethane (25 mL) and was extracted with 1N HCl (30 mL×3) and brine (30 mL). The organic extracts were dried over Na2SO4 and evaporated. The crude product was purified by chromatography on silica gel (eluting with 0-100% ethyl acetate in hexanes) to afford 1-(benzo[d][1,3]dioxol-5-yl)-N-(3-bromo-4-(hydroxymethyl)phenyl)cyclopropanecarboxamide (2.84 g, 74%); ESI-MS m/z calc. 389.0, found 390.1 (M+1)+; retention time 2.91 minutes.

reactant | Methyl 4-(1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-2-bromobenzoate | 9.9 mmol, 4.12 g | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC2=CC(=C(C(=O)OC)C=C2)Br | C19H16BrNO5
reactant | LiBH4 | 19.8 mmol, 429 mg | [Li+].[BH4-]
solvent | THF ether H2O | 1 mL | C1CCOC1.CCOCC.O
product | 1-(benzo[d][1,3]dioxol-5-yl)-N-(3-bromo-4-(hydroxymethyl)phenyl)cyclopropanecarboxamide | 2.84 g, 74% | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC2=CC(=C(C=C2)CO)Br | C18H16BrNO4
